US08030438B2
(3) Synthesis of 3″,4″-diphosphono-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene
In 4.0 ml of acetonitrile, 0.2746 g (0.401 mmols) of 3″,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene was dissolved, to which 0.4012 g (2.005 mmols) of commercially available iodotrimethylsilane was added at room temperature. Thereafter, the mixture was stirred at room temperature for 12 hours. After the reaction, the solvent was removed by distilling off under reduced pressure, followed by addition of methanol and stirring at room temperature for further 12 hours. A sodium thiosulfate aqueous solution was added, followed by stirring, filtration of the precipitated crystals, washing with distilled water, methanol, chloroform and diethyl ether and drying to obtain the specified substance in the form of a yellow powder at a yield of 0.1630 g (yield: 71%).

reactant | 3″,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene | 0.401 mmols, 0.2746 g | C(C)OP(=O)(OCC)C1=C(SC(=C1P(=O)(OCC)OCC)C=1SC(=CC1)C=1SC=CC1)C1=CC=C(S1)C=1SC=CC1 | C28H30O6P2S5
reactant | iodotrimethylsilane | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
product | 3″,4″-diphosphono-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene | yield: 71% | P(=O)(O)(O)C1=C(SC(=C1P(=O)(O)O)C=1SC(=CC1)C=1SC=CC1)C1=CC=C(S1)C=1SC=CC1 | C20H14O6P2S5
